US07767690B2
b) [1-(7-amino-5(S)-tert-butoxycarbonylamino-6(S)-hydroxy-3,3-dimethyl-heptanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester
A mixture of 0.37 g of [1-(7-azido-5(S)-tert-butoxycarbonylamino-6(S)-hydroxy-3,3-dimethyl-heptanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester and 75 mg of 10% Pd/C in 15 ml of methanol is hydrogenated at room temperature for 2 hours. The solid is removed by filtration over Hyflo® and the solution is concentrated. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60 F). Rf=0.12 (200:40:1 dichloromethane-methanol-25% conc. ammonia); Rt=3.43 (gradient I).

reactant | [1-(7-azido-5(S)-tert-butoxycarbonylamino-6(S)-hydroxy-3,3-dimethyl-heptanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester | 0.37 g | COC(NC1CN(C2=CC=CC=C2C1)C(CC(C[C@@H]([C@H](CN=[N+]=[N-])O)NC(=O)OC(C)(C)C)(C)C)=O)=O | C25H38N6O6
solvent | methanol | 15 ml | CO | CH4O
catalyst | Pd/C | 75 mg | [Pd] | Pd
product | [1-(7-amino-5(S)-tert-butoxycarbonylamino-6(S)-hydroxy-3,3-dimethyl-heptanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester | COC(NC1CN(C2=CC=CC=C2C1)C(CC(C[C@@H]([C@H](CN)O)NC(=O)OC(C)(C)C)(C)C)=O)=O | C25H40N4O6
